Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Weight gain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief ___ F w hx poorly controlled DM, CAD, CHF w recent 
100lb diuresis, a/f HCT of 28.6 (baseline 33), 14 lb wt gain. 
Patient reports that 2wkw PTA, PCP decreased torsemide from 
100mg to 40mg, after which she started gaining ~2lbs/day. 
Subsequently torsemide increased to 60mg but continued to gain 
wt. In ED vitals signs: Temp 97 58 180/79, RR 24 100%2L 
(baseline). PE w ___.  Guaiac neg.  Labs significant for HCT 
28.8, Cr 2.0 (baseline 1.6), Trop .12, CKMB 4, BNP 4505.  EKG w 
diffuse ST changes.  CXR w bilat small pleural effusions, 
improvement from prior, L-sided atelectasis, no pulm edema.  

Regarding HCT, patient has EGD ___ and colonoscopy ___ both 
negative.  Denied dark stools, bleeding.  
.  
Patient received 80mg IV furosemide in ED w/o bump UOP, received 
200mg IV lasix w good UOP.  
 
Past Medical History:
CARDIAC RISK FACTORS +DM, +HTN +HLD
CARDIAC HISTORY
-CAD s/p 5v CABG in ___, with subsequent 4v CABG 6 months later 
 
-___ EF 50-55%
OTHER MEDICAL HISTORY:
- Charcot ankle on the Left w/ osteo  
- DM c/b retinopathy, neuropathy
- anemia  
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker.  

She had a grandmother and an aunt who had breast cancer,  
grandmother was diagnosed with breast cancer in her ___ and her  

aunt was in her ___. There is no other family history of  
cancer. 
 
Physical Exam:
ON ADMISSION
VS: T= 98.6 BP= 170/65 HR= 58 RR= 14 O2 sat= 99% 2L, 91% RA  
GENERAL: NAD. Oriented x3. Mood, affect appropriate, conversant, 
pleasant, well dressed, wearing earings. Able to ___ in 
reverse  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP up to mid mandible w/ abd compression  
CARDIAC: RRR, III/VI HSM diffusely across precordium  
LUNGS: Crackles in lower half w/ decreased BS at bases 
bilaterally  
ABDOMEN: Soft, NTND. BS+, obese  
EXTREMITIES: 1+ pittind edema to knee bilaterally w/ well healed 
surgical scar on L lower leg  
SKIN: stasis dermatitis in lower extremities bilaterally L>R  
PULSES:  
Right: Carotid 2+ DP 2+ ___ trace  
Left: Carotid 2+ DP unable to palpate ___ unable to palpate 

ON DISHCARGE
VS: ___, Tm 98.7, Tc 98.7 155/76 65 20 98% 2L
GENERAL: NAD, AOx3, Comfortable
HEENT: PERRL, EOMI, Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa. 
NECK: Supple w JVP to angle of mandible
CARDIAC: RRR, III/VI HSM diffusely across precordium  
LUNGS: Bibasilar crackles
ABDOMEN: Soft, NT/ND, BS+, obese
EXTREMITIES: 1+ pitting edema to knee bilaterally w/ well healed 
surgical scars, b/l bandages to the knees. 
SKIN: Stasis dermatitis in lower extremities bilaterally L>R
PULSES:  
Right: Carotid 2+ DP 2+ ___ trace  
Left: Carotid 2+ DP unable to palpate ___ unable to palpate 
 
Pertinent Results:
Blood Counts
___ 01:55PM BLOOD WBC-8.5 RBC-3.49* Hgb-9.8* Hct-28.8* 
MCV-82 MCH-28.1 MCHC-34.1 RDW-17.2* Plt ___
___ 07:45AM BLOOD WBC-8.1 RBC-3.58* Hgb-10.0* Hct-29.2* 
MCV-82 MCH-28.0 MCHC-34.3 RDW-16.9* Plt ___

Chemistry
___ 01:55PM BLOOD Glucose-212* UreaN-61* Creat-2.0* Na-142 
K-4.7 Cl-101 HCO3-33* AnGap-13
___ 07:45AM BLOOD Glucose-113* UreaN-69* Creat-2.1* Na-140 
K-4.0 Cl-96 HCO3-36* AnGap-12

Cardiac
___ 01:55PM BLOOD CK-MB-4 proBNP-4505*
___ 01:55PM BLOOD cTropnT-0.12*
___ 07:50AM BLOOD CK-MB-2 cTropnT-0.11*

Iron
___ 07:50AM BLOOD calTIBC-186* ___ Ferritn-384* 
TRF-143*

___
CXR
1. Bilateral small pleural effusions, with interval improvement 
in the left pleural effusion. Mild pulmonary edema. 
2. Interval improvement in the aeration of the left lung base. 
 
Brief Hospital Course:
HOSPITAL COURSE
___ F PMHx poorly controlled DM, CAD, CHF w recent 100lb 
diuresis, a/w 14 lb wt gain in setting of decreased diuresis 
regimen, c/w poor diuresis, no signs of underlying ACS, now 
being diuresed.   
.  
ACTIVE
# dCHF exacerbation: Although the etiology of her chronic dCHF 
remains unknown (its severity far exceeds the extent of her risk 
factors), her acute 14 lb wt gain in the setting of recent 
discontinuation of her metolazone and decreased dosing of her 
torsemide, is believed to be the primary cause of this 
readmission.  Patient was aggressively diuresed, then started on 
a regimen of torsemide, which was uptitrated.  Metolazone was 
not restarted out of concern for overdiuresis in the outpatient 
setting.  At discharge, patient's weight was 91.9. 
.  
# HTN: On admission, patient's HTN was poorly controlled w SBP 
in 140s-150s.  Her metoprolol was changed to carvedilol for 
better afterload control. Carvedilol was then discontinued due 
to hypotension and she was started on metoprolol tartarate and 
will go home on her usual dose of metoprolol.  
.
# Anemia: Patient was admitted w Hct of 28.8, normocytic, with a 
prior colonscopy and EGD both neg, guaiac neg.  It dropped to 23 
and, given her known CAD, she was transfused 1 unit pRBCs.  
Patient remained stable for the remained of this admission.
.
#CKD: Cr elevated to 2.0 (baseline 1.6-1.8), which was thought 
to most likely be ___ to poor forward flow. She will follow up 
this issue with Neprhology as an outpatient next week. 

INACTIVE
# CORONARIES: Patient was continued on home ASA, isosorbide 
mononitrate was uptitrated.  
# DMII: Patient was continued on home glargine 22u QHS and 
sliding scale humalog.  
  
TRANSITIONAL
1. Code status: patient remained full code for the duration of 
this admission
3. Transition of Care: Patient's care was discussed with her 
primary care physician ___.  At discharge patient was 
made follow-up appointments with her PCP, ___ and 
Nephrologist. 
 
Medications on Admission:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable  

PO DAILY (Daily).  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
3. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3  
times a day).  
5. isosorbide mononitrate 60 mg Tablet Sustained Release 24 hr  
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
Disp:*60 Tablet Sustained Release 24 hr(s)* Refills:*0*  
6. metoprolol succinate 100 mg Tablet Sustained Release 24 hr  
Sig: 1.5 Tablet Sustained Release 24 hrs PO DAILY (Daily).  
Disp:*45 Tablet Sustained Release 24 hr(s)* Refills:*0*  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1)  

Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. hydromorphone 4 mg Tablet Sig: 0.5 Tablet PO Q 8H as needed 
for Pain.  
10. metolazone 10 mg Tablet Sig: One (1) Tablet PO once a day:  
Please take prior to torsemide.  
Disp:*30 Tablet(s)* Refills:*0*  
11. torsemide 60 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
12. insulin glargine 100 unit/mL Cartridge Sig: ___ (22)  

Units Subcutaneous once a day.  
13. insulin lispro 100 unit/mL Cartridge Sig: AS DIRECTED  
Subcutaneous QACHS: Please take insulin as per sliding scale.  
14. metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4  
times a day (before meals and at bedtime)): Please take 30  
minutes prior to meals.  
Disp:*60 Tablet(s)* Refills:*0*  
15. Cozaar 50 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Ativan 1 mg Tablet Sig: As previously directed prior to  
admission Tablet PO once a day.  
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for pain.  
6. lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for anxiety.  
7. torsemide 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  
9. metoprolol succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
10. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
11. isosorbide mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*60 Tablet Sustained Release 24 hr(s)* Refills:*2*
12. losartan 100 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Diastolic Congestive Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted with weight gain. You were 
evaluated and found to have a worsening of your heart failure.  
This was likely due to a recent change in your medications.  You 
were treated with diuresis (removal of fluid) and you are now 
ready for discharge.

It will be important for you to weigh yourself every morning, 
and to call your doctor if your weight increases by more than 3 
lbs in a day.

During this hospitalization the following changes were made to 
your medications:
-continue your home diabetis medications
-STOPPED   metolazone
-INCREASED torsemide to 100 daily
-INCREASED Isosorbide mononitrate to 120 daily
-INCREASED Cozaar to 100 Daily
-Resume taking metoprolol succinate 100mg sustained release 
daily
-INCREASE amlodipine to 10mg daily 
 
Please make sure you go to your follow-up appointments and keep 
a log of your blood pressures and weight. 
 
Followup Instructions:
___